US08809342B2
A solution of 6-(4-(trifluoromethyl)phenyl)pyridazin-3-amine (140 mg, 0.585 mmol) in N,N-dimethylformamide (2 mL) was added to a suspension of 60% sodium hydride (27.2 mg, 0.679 mmol) in N,N-dimethylformamide (2 mL) at 0° C. The mixture was stirred at room temperature for 30 minutes. A mixture of ethyl 4-(1-(methylsulfonyloxy)butyl)benzoate (0.170 g, 0.566 mmol) in N,N-dimethylformamide (3 mL) was then added at room temperature. The reaction was stirred for 2 hours. The reaction was diluted with ethyl acetate and washed with water and brine. The organics were dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0-15% ethyl acetate in heptanes) gave ethyl 4-(1-(6-(4-(trifluoromethyl)phenyl)pyridazin-3-ylamino)butyl)benzoate (25.0 mg, 10%) as an oil. 1H NMR (400 MHz, CDCl3, δ): 7.98-8.05 (m, 4 H), 7.67 (d, J=8.19 Hz, 2 H), 7.53 (d, J=9.36 Hz, 1 H), 7.44 (d, J=8.19 Hz, 2 H), 6.57 (d, J=9.36 Hz, 1 H), 5.56-5.67 (m, 1 H), 4.82-4.93 (m, 1 H), 4.34 (q, J=7.22 Hz, 2 H), 1.79-2.01 (m, 2 H), 1.36 (t, J=7.22 Hz, 3 H), 1.28-1.54 (m, 2 H), 0.96 (t, J=7.32 Hz, 3 H). MS (M+1): 444.1.

reactant | 6-(4-(trifluoromethyl)phenyl)pyridazin-3-amine | 0.585 mmol, 140 mg | FC(C1=CC=C(C=C1)C1=CC=C(N=N1)N)(F)F | C11H8F3N3
reactant | sodium hydride | 0.679 mmol, 27.2 mg | [H-].[Na+]
reactant | ethyl 4-(1-(methylsulfonyloxy)butyl)benzoate | 0.566 mmol, 0.170 g | CS(=O)(=O)OC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C14H20O5S
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(1-(6-(4-(trifluoromethyl)phenyl)pyridazin-3-ylamino)butyl)benzoate | 25.0 mg, 10% | FC(C1=CC=C(C=C1)C1=CC=C(N=N1)NC(CCC)C1=CC=C(C(=O)OCC)C=C1)(F)F | C24H24F3N3O2
